US09102614B2
Preparation of (S)-ethyl 2-(1-(3-(azetidin-1-yl)phenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate:
A Smith process vial was charged with (S)-ethyl 2-tert-butoxy-2-(1-chloro-3-methylnaphthalen-2-yl)acetate (60.5 mg, 0.181 mmol), 1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)azetidine (93.7 mg, 0.361 mmol), chloro(2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl)[2-(2-aminoethylphenyl)]Pd(II)methyl-t-butyl ether adduct (12.2 mg, 0.0181 mmol) and potassium phosphate (153 mg, 0.543 mmol), THF (2 mL) and water (1 mL) was added and mixture sparged with nitrogen for 10 minutes and then heated in microwave at 110° C. for 1 hour. The reaction mixture was diluted with ethyl acetate and washed with brine, dried (MgSO4), filtered, concentrated and purified by flash column chromatography (silica gel, ethyl acetate/hexanes) to the desired product containing some impurities that was used in the next step without further purification.

reactant | (S)-ethyl 2-tert-butoxy-2-(1-chloro-3-methylnaphthalen-2-yl)acetate | 0.181 mmol, 60.5 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C)Cl | C19H23ClO3
reactant | 1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)azetidine | 0.361 mmol, 93.7 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1CCC1)C | C15H22BNO2
reactant | potassium phosphate | 0.543 mmol, 153 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | (S)-ethyl 2-(1-(3-(azetidin-1-yl)phenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | N1(CCC1)C=1C=C(C=CC1)C1=C(C(=CC2=CC=CC=C12)C)[C@@H](C(=O)OCC)OC(C)(C)C | C28H33NO3
